US04146631
2-Hydroxyisophthalic acid (1.82 g) and N,N'-dicyclohexylcarbodiimide (2.17 g) were dissolved together in dry pyridine (30 ml) and the mixture was stirred for 2 hours at room temperature. The mixture was then treated with dry tert-butylamine (5 ml), and the mixture was stirred at 60° C. for 20 hours. The solvents were removed in vacuo, and the residue was treated with saturated aqueous sodium bicarbonate solution (50 ml). The mixture was stirred for 15 minutes. The insoluble N,N'-dicyclohexylurea was then removed by filtration and the resulting filtrate was treated with charcoal and filtered again. The filtrate was then acidified by treatment with concentrated hydrochloric acid to give a white solid which was filtered off and recrystallized from a mixture of petroleum ether (b.p. 60°-80° C.) and benzene to give 3-tert-butylcarbamoylsalicylic acid (1.2 g), m.p. 191°-195° C.

reactant | 2-Hydroxyisophthalic acid | 1.82 g | OC1=C(C(=O)O)C=CC=C1C(=O)O | C8H6O5
reactant | N,N'-dicyclohexylcarbodiimide | 2.17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert-butylamine | 5 ml | C(C)(C)(C)N | C4H11N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-tert-butylcarbamoylsalicylic acid | 1.2 g | C(C)(C)(C)NC(=O)C1=C(C(C(=O)O)=CC=C1)O | C12H15NO4
